US09102614B2
Preparation of 2-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetic acid (126):
A solution of ethyl 2-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate (30 mg, 71.4 μmol), LiOH monohydrate (15 mg, 0.357 mmol), H2O (500 μL), EtOH (absolute, 500 μL), and THF (500 μL) was placed in a sealed tube and heated to 100° C. Once the reaction was complete, it was cooled to 23° C., filtered through a 0.45 micron filter, and directly purified by reverse phase HPLC (Gemini, 5 to 100% ACN/H2O+0.1% TFA). The product-containing fractions were combined and lyophilized, giving the title compound (parent form) (11.5 mg, 40%). 1H NMR (400 MHz, CD3OD) δ 8.38 (d, J=8.6 Hz, 1H), 7.63-7.47 (m, 4H), 7.38-7.20 (m, 3H), 5.30 (s, 1H), 2.69 (s, 3H), 1.00 (s, 9H). LCMS-ESI− (m/z): [M—CO2—H]− calcd for C22H21BrClO: 415.2; Found: 415.0.

reactant | ethyl 2-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | 71.4 μmol, 30 mg | BrC1=C(C(=C(C2=CC=CC=C12)C1=CC=C(C=C1)Cl)C(C(=O)OCC)OC(C)(C)C)C | C25H26BrClO3
reactant | H2O | 500 μL | O | H2O
reactant | EtOH | 500 μL | CCO | C2H6O
solvent | THF | 500 μL | C1CCOC1 | C4H8O
product | 2-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetic acid | 11.5 mg, 40% | BrC1=C(C(=C(C2=CC=CC=C12)C1=CC=C(C=C1)Cl)C(C(=O)O)OC(C)(C)C)C | C23H22BrClO3
